US08791267B2
1-Ethyl-3-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylmethyl]-urea (I-162).
Into a 50 mL round bottom flask was added C-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-methylamine (I-161, 1 g, crude), pyridine (10 mL), and ethyl isocyanate (0.5 mL, 6.5 mmol). The reaction was stirred at room temperature for 30 minutes and then NaHCO3 (sat) was added. The product was extracted with 3×10 mL EtOAc and the combined organics were dried over Na2SO4, and concentrated. The residue was purified by flash column chromatography eluting with 50% acetone/dichloromethane—100% MeOH to afford 289 mg of I-162 as a brown oil in 22% yield.

reactant | C-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-yl]-methylamine | 1 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)CN)C | C12H19BN2O2
reactant | ethyl isocyanate | 6.5 mmol, 0.5 mL | C(C)N=C=O | C3H5NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-3-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridin-2-ylmethyl]-urea | 22% yield | C(C)NC(=O)NCC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H24BN3O3
